US07410963B2
3-[8-Methoxy-7-(2-methoxy-phenyl)-2-oxo-1-phenethyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-[8-methoxy-7-(2-methoxy-phenyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile Example 10 using the same method described for Example 35 using phenethyl bromine instead of hexyl bromine. The title compound (110 mg) was obtained as a white solid, (yield=87%).

reactant | 3-[8-methoxy-7-(2-methoxy-phenyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | COC=1C(=CC2=C(NC(CN=C2C=2C=C(C#N)C=CC2)=O)C1)C1=C(C=CC=C1)OC | C24H19N3O3
reactant | phenethyl bromine | C(CC1=CC=CC=C1)Br | C8H9Br
product | 3-[8-Methoxy-7-(2-methoxy-phenyl)-2-oxo-1-phenethyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 110 mg, yield=87% | COC=1C(=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)CCC2=CC=CC=C2)C1)C1=C(C=CC=C1)OC | C32H27N3O3
